US04562186
5-(Phenylsulfinyl)methyl-3-(4-toluoyl)-1,2,4-oxadiazole
A solution of 5.14 g of m-chloroperoxybenzoic acid (85%) in 125 ml CH2Cl2 was added dropwise to a solution of 7.5 g of 5-phenylthiomethyl-3-(4-toluoyl)-1,2,4-oxadiazole in 150 ml CH2Cl2 at -70° under N2. The temperature was maintained below -65° during the addition by controlling the addition rate and stirring was continued for 30 minutes after the addition while maintaining the temperature below -65°. The resulting mixture was poured directly into a separatory funnel containing 250 ml of 10% Na2S2O3 and 500 ml of Et2O. The organics were washed with saturated NaHCO3 and dried over MgSO4. Concentration gave an oil which solidified on standing. Recrystallization from acetone/hexane gave 5.3 g (64%) of needles, m.p. 97°-99°.

reactant | m-chloroperoxybenzoic acid | 5.14 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-phenylthiomethyl-3-(4-toluoyl)-1,2,4-oxadiazole | 7.5 g | C1(=CC=CC=C1)SCC1=NC(=NO1)C(=O)C1=CC=C(C=C1)C | C17H14N2O2S
reactant | Na2S2O3 | 250 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | Et2O | 500 ml | CCOCC | C4H10O
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 5-(Phenylsulfinyl)methyl-3-(4-toluoyl)-1,2,4-oxadiazole | 5.3 g, 64% | C1(=CC=CC=C1)S(=O)CC1=NC(=NO1)C(=O)C1=CC=C(C=C1)C | C17H14N2O3S
